US05519138
2-Ethoxy-7-carboxy-1-[4-[α-(1H-tetrazol-5-yl)benzyloxy]benzyl]benzimidazole
Prepared analogously to Example 1b from 2-ethoxy-7-ethoxycarbonyl-1-[4-[α-(1H-tetrazol-5-yl)benzyloxy]benzyl]benzimidazole and 2N sodium hydroxide solution in ethanol.

reactant | 2-ethoxy-7-ethoxycarbonyl-1-[4-[α-(1H-tetrazol-5-yl)benzyloxy]benzyl]benzimidazole | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C27H26N6O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Ethoxy-7-carboxy-1-[4-[α-(1H-tetrazol-5-yl)benzyloxy]benzyl]benzimidazole | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C25H22N6O4
